US06888032B2
The general procedure in example 39 was followed. 2-Iodotoluene (218 mg, 1.0 mmol), 2-Isopropylbenzenethiol (90% purity, 168 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 2-tolyl 2-Isopropylphenyl sulfide (213 mg, 88% yield) as colorless liquid. Column chromatographic solvent (hexane). Rf=0.4 (hexane). 1H NMR (CDCl3, 300 MHz) δ 7.32 (d, 1 H, J=7.5 Hz), 7.18-7.26 (m, 2 H), 7.13 (dd, 1 H, J=1.5 Hz, 7.2 Hz), 7.09-7.11 (m, 1 H), 7.01-7.08 (m, 2 H), 7.00 (dd, 1 H, J=1.5 Hz, 7.2 Hz), 3.49 (hept, 1 H, J=6.6 Hz), 2.37 (s, 3 H), 1.25 (s, 3 H), 1.22 (s, 3 H). 13C NMR (CDCl3, 75 MHz) δ 149.6, 138.6, 135.5, 133.1, 132.2, 131.1, 130.6, 127.9, 127.0, 126.8, 126.7, 126.1, 30.9, 23.9, 20.9. IR (neat, cm−1) 3060, 3012, 2962, 2867. MS (EI) m/z (relative intensity) 242 (100), 225 (80). Anal. Cald. for C16H18S, Cald. C, 79.29; H, 7.49. Found C, 79.33; H, 7.62.

reactant | 2-Iodotoluene | 1.0 mmol, 218 mg | IC1=C(C=CC=C1)C | C7H7I
reactant | 2-Isopropylbenzenethiol | 1.0 mmol, 168 μL | C(C)(C)C1=C(C=CC=C1)S | C9H12S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 2-tolyl 2-Isopropylphenyl sulfide | 213 mg, 88% yield | C(C)(C)C1=C(C=CC=C1)SC=1C(=CC=CC1)C | C16H18S
